US04544667
5-Dimethylaminomethyl-2-sulfamoylbenzo[b]furan
An ice cold, stirred solution of 5-bromomethyl-2-sulfamoylbenzo[b]furan in methanol is treated with an excess of anhydrous dimethylamine to give the title compound.

reactant | 5-bromomethyl-2-sulfamoylbenzo[b]furan | BrCC1=CC2=C(OC(=C2)S(N)(=O)=O)C=C1 | C9H8BrNO3S
reactant | dimethylamine | CNC | C2H7N
solvent | methanol | CO | CH4O
product | 5-Dimethylaminomethyl-2-sulfamoylbenzo[b]furan | CN(C)CC1=CC2=C(OC(=C2)S(N)(=O)=O)C=C1 | C11H14N2O3S
